US08283454B2
Preparation of (3R,4S,5S,6R)-2-(4-chloro-3-(4-cyclopropylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol
A cold solution of n-BuLi (2.5 M in hexane, 163 mL, 0.408 mol) precooled to −78° C. can be added dropwise under argon to a stirred solution of 4-bromo-1-chloro-2-((4-cyclopropylphenyl)methyl)benzene (100 g, 0.340 mol) in anhydrous THF/toluene (1:2 (v/v), 660 mL) at −78° C. at such a rate as to keep the internal temperature below −70° C. The mixture is then stirred for another 40 min after the addition. The reaction mixture is transferred by a cannula to a stirred solution of (3R,4S,5R,6R)-3,4,5-tris-(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one (206 g, 0.442 mol) in toluene (660 mL) at −78° C. at a rate as to keep the internal temperature below −70° C. The reaction mixture is then stirred at −78° C. for 3 h until the starting materials are consumed before quenching slowly with a solution of hydrochloric acid (36˜38%, 62.3 mL, 0.747 mol) in methanol (440 mL), so the reaction temperature does not exceed −45° C. The reaction mixture is gradually warmed to room temperature and stirred overnight. The mixture is neutralized with aqueous solution of saturated sodium bicarbonate to pH 7.5. The organic layer is separated and the aqueous phase is extracted with ethyl acetate (2×1.2 L). The combined organic layers can be washed with brine (2×1.0 L), dried over sodium sulfate, and concentrated. The residue is then dissolved in hot toluene (200 mL), to which n-hexane (2.0 L) is poured in with rapid stirring. The mixture is stirred for another 1 h and filtered. The solid is dried under vacuum to give the crude product, which can be used in the next step without further purification.

reactant | n-BuLi | 0.408 mol, 2.5 M, 163 mL | [Li]CCCC
reactant | 4-bromo-1-chloro-2-((4-cyclopropylphenyl)methyl)benzene | 0.340 mol, 100 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C1CC1 | C16H14BrCl
reactant | (3R,4S,5R,6R)-3,4,5-tris-(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one | 0.442 mol, 206 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | hydrochloric acid | 0.747 mol, 62.3 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF toluene | 660 mL | C1CCOC1.C1(=CC=CC=C1)C
solvent | toluene | 660 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 440 mL | CO | CH4O
product | (3R,4S,5S,6R)-2-(4-chloro-3-(4-cyclopropylbenzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | ClC1=C(C=C(C=C1)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC=C(C=C1)C1CC1 | C23H27ClO6
